US07456171B2
3-(1,4,Diazabicyclo[3.2.2]non-4-ylcarbonyl)-1H-pyrazolo[3,4-c]pyridine
1 g (5 mmol) of 3-bromo-1H-pyrazolo[3,4-c]pyridine, 0.53 g (0.75 mmol) of bis(triphenyl-phosphino)dichloropalladium, 1.9 g (15.1 mmol) of 1,4-diazabicyclo[3.2.2]nonane and 3.5 ml (25 mmol) of triethylamine dissolved in 15 ml of N,N-dimethyl-formamide are successively introduced into a 50 ml reactor. The mixture is then purged with carbon monoxide and heated at 110° C. for 20 hours. The reaction medium is poured into 100 ml of water and the aqueous phase is extracted with chloroform. After drying the organic phases, they are dried, filtered and concentrated under reduced pressure. The residue is purified by chromatography on a column of silica gel, eluting with a mixture of chloroform, methanol and aqueous ammonia in 90/10/1 proportions.

reactant | 3-bromo-1H-pyrazolo[3,4-c]pyridine | 5 mmol, 1 g | BrC1=NNC2=CN=CC=C21 | C6H4BrN3
reactant | 1,4-diazabicyclo[3.2.2]nonane | 15.1 mmol, 1.9 g | N12CCNC(CC1)CC2 | C7H14N2
reactant | triethylamine | 25 mmol, 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethyl-formamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenyl-phosphino)dichloropalladium | 0.75 mmol, 0.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](Cl)(Cl)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(1,4,Diazabicyclo[3.2.2]non-4-ylcarbonyl)-1H-pyrazolo[3,4-c]pyridine | N12CCN(C(CC1)CC2)C(=O)C2=NNC1=CN=CC=C12 | C14H17N5O
